US04075199
The 2-t-butylazo-2-(t-amylperoxy)-4-methoxy-4-methylpentane was prepared in 97% crude yield from 7.78 grams (0.0331 moles) of 2-t-butylazo-2-chloro-4-methoxy-4-methylpentane, 5.35 grams (0.0464 moles) of 90% t-amyl hydroperoxide and 7.92 grams (0.0353 moles) of 25% potassium hydroxide solution. The procedure was the same as that described in Example XX. The infrared spectrum of the product indicated there was a small amount of 2-t-butylazo-2-hydroxy-4-methoxy-4-methylpentane present in the product.

reactant | 2-t-butylazo-2-chloro-4-methoxy-4-methylpentane | 0.0331 moles, 7.78 grams | C(C)(C)(C)N=NC(C)(CC(C)(C)OC)Cl | C11H23ClN2O
reactant | t-amyl hydroperoxide | 0.0464 moles, 5.35 grams | C(C)(C)(CC)OO | C5H12O2
reactant | potassium hydroxide | 0.0353 moles, 7.92 grams | [OH-].[K+]
reactant | 2-t-butylazo-2-hydroxy-4-methoxy-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)(C)OC)O | C11H24N2O2
product | 2-t-butylazo-2-(t-amylperoxy)-4-methoxy-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)(C)OC)OOC(C)(C)CC | C16H34N2O3
